US05189054
Preparation of 3-[(2-Benzylphenacyl)methylamino]-2-carboxy-4,6-dichloroindole
Dissolve 3-[(2-benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole (200 mg, 0.41 mmol) in tetrahydrofuran (3 mL) and add water (3 mL). Add lithium hydroxide monohydrate (1.2 mmol) and heat at 60° C. overnight. Add addition lithium hydroxide monohydrate (1.2 mmol) and heat at 60° C. for 5 hours. Allow some of the tetrahydrofuran to evaporate and add methanol to form a homogeneous solution. Heat for 3 days, adding additional lithium hydroxide monohydrate (2.4 mmol). Dilute with water and filter. Acidify, extract into ethyl acetate and dry (MgSO4). Evaporate the solvent in vacuo and recrystallize (ethyl acetate/hexane) to give the title compound as a white powder (180 mg, 97%); mp 280°-83° C.

reactant | 3-[(2-benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 0.41 mmol, 200 mg | C(C1=CC=CC=C1)C1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C27H24Cl2N2O3
reactant | lithium hydroxide monohydrate | 1.2 mmol | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 1.2 mmol | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 2.4 mmol | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 3 mL | O | H2O
product | 3-[(2-Benzylphenacyl)methylamino]-2-carboxy-4,6-dichloroindole | 180 mg, 97% | C(C1=CC=CC=C1)C1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)O)=O)C=CC=C1 | C25H20Cl2N2O3
